* High-Performance Op-Amp — Cascode Two-Stage Miller OTA
* ±15V dual supply, 600Ω load
* All component values optimized by DE. Do not hardcode values.

* ===== Supply =====
Vdd vdd 0 DC 15
Vss vss 0 DC -15

* ===== Input =====
Vinp inp 0 DC 0 AC 0.5
Vinm inm 0 DC 0 AC -0.5

* ===== First stage: Cascode NMOS diff pair + Cascode PMOS active load =====
* Diff pair
M1 s1 inp tail vss NMOS W={W1}u L={L1}u
M2 s2 inm tail vss NMOS W={W1}u L={L1}u
* NMOS cascodes
M1c d1 ncasp s1 vss NMOS W={W1c}u L={L1c}u
M2c d2 ncasp s2 vss NMOS W={W1c}u L={L1c}u
* PMOS active load
M3 d1 d1 sp3 vdd PMOS W={W3}u L={L3}u
M4 d2 d1 sp4 vdd PMOS W={W3}u L={L3}u
* PMOS cascodes
M3c sp3 pcasp vdd vdd PMOS W={W3c}u L={L3c}u
M4c sp4 pcasp vdd vdd PMOS W={W3c}u L={L3c}u
* Tail current source
M5 tail nbias vss vss NMOS W={W5}u L={L5}u

* ===== Second stage: common-source amplifier =====
M6 out d2 vdd vdd PMOS W={W6}u L={L6}u
M7 out nbias2 vss vss NMOS W={W7}u L={L7}u

* ===== Miller compensation =====
Cc d2 comp {Cc}
Rc comp out {Rc}

* ===== Bias generation =====
Ibias vdd nbias {Ibias}
Mbias nbias nbias vss vss NMOS W={Wbias}u L={Lbias}u
Ibias2 vdd nbias2 {Ibias2}
Mbias2 nbias2 nbias2 vss vss NMOS W={Wbias2}u L={Lbias2}u

* Cascode bias: NMOS cascode gate
Ibias3 vdd ncasp {Ibias3}
Mbias3 ncasp ncasp vss vss NMOS W={Wbias3}u L={Lbias3}u

* Cascode bias: PMOS cascode gate
Ibias4 pcasp vss {Ibias4}
Mbias4 pcasp pcasp vdd vdd PMOS W={Wbias4}u L={Lbias4}u

* ===== Load =====
RL out 0 600
CL out 0 100p

* ===== Models (Level 1 CMOS) =====
.model NMOS NMOS (LEVEL=1 VTO=0.7 KP=110u GAMMA=0.4 LAMBDA=0.04 PHI=0.65 TOX=9e-9)
.model PMOS PMOS (LEVEL=1 VTO=-0.7 KP=50u GAMMA=0.57 LAMBDA=0.05 PHI=0.65 TOX=9e-9)

* ===== Analysis =====
.control
* Operating point
op

* Bias checks
let vgs1 = v(inp) - v(tail)
let vds1 = v(s1) - v(tail)
let vgs5 = v(nbias) - v(vss)
let vds5 = v(tail) - v(vss)
let vgs6 = v(d2) - v(vdd)
let vds6 = v(out) - v(vdd)
let vgs7 = v(nbias2) - v(vss)
let vds7 = v(out) - v(vss)

echo "RESULT_VGS1" $&vgs1
echo "RESULT_VDS1" $&vds1
echo "RESULT_VGS5" $&vgs5
echo "RESULT_VDS5" $&vds5
echo "RESULT_VGS6" $&vgs6
echo "RESULT_VDS6" $&vds6
echo "RESULT_VGS7" $&vgs7
echo "RESULT_VDS7" $&vds7

* Power
let pwr_mw = (abs(i(Vdd)) + abs(i(Vss))) * 15 * 1000
echo "RESULT_POWER_MW" $&pwr_mw

* AC analysis (differential)
ac dec 200 1 1G

meas ac dc_gain_db find vdb(out) at=10
meas ac gbw_hz when vdb(out)=0 fall=1
meas ac phase_at_gbw find vp(out) at=$&gbw_hz

let phase_margin = 180 + phase_at_gbw
echo "RESULT_PHASE_MARGIN" $&phase_margin

* Save DC gain for CMRR calculation
let saved_dc_gain = dc_gain_db

* CMRR: switch to common-mode and re-run AC
alter @Vinp[mag] = 0.5
alter @Vinm[mag] = 0.5
ac dec 200 1 1G
meas ac cm_gain_db find vdb(out) at=10
let cmrr_val = saved_dc_gain - cm_gain_db
echo "RESULT_CMRR_DB" $&cmrr_val

* Restore differential for DC sweep
alter @Vinp[mag] = 0.5
alter @Vinm[mag] = -0.5
alter @Vinp[dc] = 0
alter @Vinm[dc] = 0

* DC sweep for output swing
dc Vinp -14 14 0.05
meas dc vout_min min v(out)
meas dc vout_max max v(out)
let swing = vout_max - vout_min
echo "RESULT_SWING" $&swing

echo "RESULT_DONE"
quit
.endc

.end
